US07781443B2
(2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(6-chloropyrazin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (300 mg) is dissolved in 1,3-dimethylimidazolidinone (2 ml), then thereto are added diisopropylethylamine (0.13 ml) and morpholine (0.6 ml), and the mixture is heated to 100° C. and stirred for 3 days. After adding distilled water, the mixture is extracted with ether. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (NH-silica gel; hexane: ethyl acetate=9:1→7:3) to give (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-[6-(morpholin-4-yl)pyrazin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (223.2 mg). MS (m/z): 669 [M+H]+

reactant | (2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(6-chloropyrazin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 300 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC(=CN=C1CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)Cl)CC | C27H26ClF6N5O3
reactant | diisopropylethylamine | 0.13 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | morpholine | 0.6 ml | N1CCOCC1 | C4H9NO
solvent | 1,3-dimethylimidazolidinone | 2 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-[6-(morpholin-4-yl)pyrazin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 223.2 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC(=CN=C1CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCOCC1)CC | C31H34F6N6O4
